US07491735B2
Using general procedure A with 4-(trifluoromethyl)aniline (0.19 mL, 1.51 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (302 mg, 1.82 mmol) followed by general procedure J afforded [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-trifluoromethyl-phenyl)-amine as a pale blue solid (232 mg, 49% over 2 steps).

reactant | 4-(trifluoromethyl)aniline | 1.51 mmol, 0.19 mL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 1.82 mmol, 302 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-trifluoromethyl-phenyl)-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)C(F)(F)F | C16H24F3N3
